US07700072B2
An acetonitrile solution of [Re(O)(hoz)2][B(C6F5)] (0.050 g, 0.040 mmol) was treated with water (3 mL, 166 mmol) in a Schlenk tube. Phenyldimethyl silane (1 mL, 6.53 mmol) was then added and the evolution of hydrogen was monitored using a glass evolution apparatus. Upon cessation of hydrogen evolution the reaction mixture was poured onto ice and treated with pentane to precipitate the catalyst. The mixture was filtered and the organic layer was extracted with diethyl ether and pentane. The solution was dried with anhydrous MgSO4 and filtered. Pentane and ether were removed in vacuo to afford 88% isolated yield of PhMe2Si(OH) (95%) and (PhMe2Si)2O (5%).

reactant | acetonitrile | C(C)#N | C2H3N
reactant | water | 166 mmol, 3 mL | O | H2O
reactant | Phenyldimethyl silane | 6.53 mmol, 1 mL | C1(=CC=CC=C1)[SiH](C)C | C8H12Si
reactant | hydrogen | [H][H] | H2
solvent | pentane | CCCCC | C5H12
product | (PhMe2Si)2O | 5% | O([Si](C)(C)C1=CC=CC=C1)[Si](C)(C)C1=CC=CC=C1 | C16H22OSi2
